US06936612B2
4-[6-(8-Cyclopentyl-6-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.411 g, 0.813 mmol), prepared as in Example 19, was dissolved in a 1:1 mixture of methanol/chloroform, purged with anhydrous hydrogen chloride gas, stirred for 2 hours at room temperature and a solid precipitated by addition of diethyl ether. The suspension was filtered and the residue dried in vacuo yielding 8-cyclopentyl-6-methyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a yellow solid (0.393 g). (APCI); M++1: Calc'd, 406.50. Found, 406.2. Analyses for C22H27N7O.2.85 H2O.2.2HCl: Calc'd: C, 49.20; H, 6.55; N, 18.26; Cl (ionic), 14.52; H2O, 9.56. Found: C, 49.43; H, 6.32; N, 17.87; Cl (ionic), 14.38; H2O, 7.35.

reactant | 4-[6-(8-Cyclopentyl-6-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.813 mmol, 0.411 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)C)=O)C2CCCC2 | C27H35N7O3
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
product | 8-cyclopentyl-6-methyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.393 g | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)C)=O | InChI=1S/C22H27N7O.ClH/c1-15-12-16-13-25-22(27-20(16)29(21(15)30)17-4-2-3-5-17)26-19-7-6-18(14-24-19)28-10-8-23-9-11-28;/h6-7,12-14,17,23H,2-5,8-11H2,1H3,(H,24,25,26,27);1H
